US08497281B2
cis-1-(1H-Benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine-7-carboxylic acid methylamide
The title compound is prepared from cis-1-(1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine-7-carboxylic acid and methylamine (2 mol/L in tetrahydrofuran) following a procedure analogous to that described in Example 1. Yield: 19% of theory; LC (method 1): tR=1.86 min; Mass spectrum (ESI+): m/z=375 [M+H]+.

reactant | cis-1-(1H-benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine-7-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=CC(=CC2C1)C(=O)O | C21H19N3O3
reactant | methylamine | 2 mol/L | CN | CH5N
product | cis-1-(1H-Benzoimidazole-5-carbonyl)-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine-7-carboxylic acid methylamide | Yield: 19% | CNC(=O)C1=CC=2C[C@@H]3N(CCC[C@@H]3C2C=C1)C(=O)C1=CC2=C(NC=N2)C=C1 | C22H22N4O2
